US09359286B2
The brown liquid tert-butyl 2-(4-((5R,7R)-2-oxo-3-oxa-1-azaspiro[4.4]nonan-7-yl)phenyl)acetate (I-7A, 2.35 g, 7.09 mmol) was dissolved in DCM (60 mL) followed by the addition of trifluoroacetic acid (20 mL, 260 mmol). The reaction mixture was stirred at room temperature for 1 h at which time the solvent was removed under reduced pressure. The resulting material was diluted in DCM (60 mL), purified by acid/base extraction and placed under vacuum for 1 h. The resulting brown gum 2-(4-((5R,7R)-2-oxo-3-oxa-1-azaspiro[4.4]nonan-7-yl)phenyl)acetic acid (1.952 g, 7.09 mmol) was dissolved in DCM (60 mL) followed by the addition of oxalyl chloride (1.862 mL, 21.27 mmol), and DMF (0.027 mL, 0.355 mmol). The resulting solution was stirred until the evolution of gas ceased (about 30 min) at room temperature. LCMS of an aliquot quenched with MeOH showed complete consumption of the acid (RT=0.65 min, Condition I) and appearance of the presumed methyl ester due to methanol quench (RT=0.77 min, Condition I) as the only product. The solvent was removed under reduced pressure and the product was placed under vacuum. The brown gum was transfer to a sealed tube with DCM (60 mL) (does not completely dissolve, a brown suspension is obtained). The reaction mixture was cooled to −78° C. followed by the addition of granular aluminum chloride (2.84 g, 21.27 mmol). Ethylene was bubbled through the solution for 7 min and the tube was sealed. A precipitate formed and the reaction mixture was stirred at −78° C. for 15 min and then allowed to reach room temperature. The reaction mixture was stirred for 2 h at room temperature and then depressurized. LCMS analysis showed disappearance of starting material and appearance of the tetralone product. The reaction mixture was poured over ice, diluted with DCM and stirred until the ice melted. The organic layer was washed with brine, dried and concentrated under reduced pressure. Purification on silica gel afforded (5R,7R)-7-(6-oxo-5,6,7,8-tetrahydronaphthalen-2-yl)-3-oxa-1-azaspiro[4.4]nonan-2-one (1.05 g, 3.68 mmol). HPLC retention time=0.74 min (Condition I); LC/MS M+1=286; 1H NMR (400 MHz, chloroform-d) δ 7.23-7.11 (m, 3H), 5.68 (br. s., 1H), 4.45-4.30 (m, 2H), 3.59 (s, 2H), 3.31-3.18 (m, 1H), 3.08 (t, J=6.8 Hz, 2H), 2.58 (t, J=6.7 Hz, 2H), 2.42-2.39 (m, 1H), 2.32-2.15 (m, 2H), 2.09-1.99 (m, 1H), 1.91-1.83 (m, 1H), 1.82-1.72 (m, 1H).

reactant | tert-butyl 2-(4-((5R,7R)-2-oxo-3-oxa-1-azaspiro[4.4]nonan-7-yl)phenyl)acetate | 7.09 mmol, 2.35 g | O=C1N[C@@]2(CO1)C[C@@H](CC2)C2=CC=C(C=C2)CC(=O)OC(C)(C)C | C19H25NO4
reactant | trifluoroacetic acid | 260 mmol, 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(4-((5R,7R)-2-oxo-3-oxa-1-azaspiro[4.4]nonan-7-yl)phenyl)acetic acid | 7.09 mmol, 1.952 g | O=C1N[C@@]2(CO1)C[C@@H](CC2)C2=CC=C(C=C2)CC(=O)O | C15H17NO4
reactant | oxalyl chloride | 21.27 mmol, 1.862 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 21.27 mmol, 2.84 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | tetralone | C1(CCCC2=CC=CC=C12)=O | C10H10O
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 0.355 mmol, 0.027 mL | CN(C)C=O | C3H7NO
product | (5R,7R)-7-(6-oxo-5,6,7,8-tetrahydronaphthalen-2-yl)-3-oxa-1-azaspiro[4.4]nonan-2-one | 3.68 mmol, 1.05 g | O=C1CC=2C=CC(=CC2CC1)[C@H]1C[C@@]2(COC(N2)=O)CC1 | C17H19NO3
